US08119676B2
4-Bromo-2-methylpyridine (165 mg, 0.96 mmol), (S)-(−)-N-Boc-3-aminopyrrolidine (214 mg, 1.15 mmol), Pd(OAc)2 (8.6 mg, 0.04 mmol), (rac)-BINAP (23.9 mg, 0.04 mmol) and NaOtBu (129 mg, 1.34 mmol) in dry toluene (5 mL) were heated at 70° C. in a flask under nitrogen atmosphere for 4 hours. The reaction mixture was allowed to cool down to room temperature, taken up in diethyl ether (10 mL), washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel using 15% MeOH in CH2Cl2 as eluent to afford (S)-3-(2-methyl-pyridin-4-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester (255 mg, 96%) as an orange oil.

reactant | 4-Bromo-2-methylpyridine | 0.96 mmol, 165 mg | BrC1=CC(=NC=C1)C | C6H6BrN
reactant | (S)-(−)-N-Boc-3-aminopyrrolidine | 1.15 mmol, 214 mg | C(=O)(OC(C)(C)C)N1C[C@H](CC1)N | C9H18N2O2
reactant | NaOtBu | 1.34 mmol, 129 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
catalyst | Pd(OAc)2 | 0.04 mmol, 8.6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (S)-3-(2-methyl-pyridin-4-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 255 mg, 96% | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=CC(=NC=C1)C | C15H23N3O2
